US06894200B2
(c) Formation of 1,2-difluoronaphthalene
A solution of the tetrafluoro naphthalene, 1,1,2,2-tetrafluoro-1,2-dihydronaphthalene (5.25 g , 25.66 mmol) in THF (15 ml) was treated with 30% aqueous NH4OH (30 ml) and zinc (8.45 g, 130 mmol) (powder) and stirred under N2 for 4 hours at RT. The reaction was monitored by GC/MS for disappearance of the starting material and found to be complete. The solution was filtered, extracted with hexane (30 ml), and filtered through a short silica column (20 g). The hexane solution was evaporated in vacuo to afford an oil. This crystallized on cooling to room temperature to afford 3.99 g (95% yield) of product. MS: m/e 164 (M+).

reactant | tetrafluoro naphthalene | FC1=C(C(=C(C2=CC=CC=C12)F)F)F | C10H4F4
reactant | 1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 25.66 mmol, 5.25 g | FC1(C(C=CC2=CC=CC=C12)(F)F)F | C10H6F4
reactant | NH4OH | 30 ml | [NH4+].[OH-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | zinc | 130 mmol, 8.45 g | [Zn] | Zn
product | 1,2-difluoronaphthalene | 3.99 g, 95% yield | FC1=C(C=CC2=CC=CC=C12)F | C10H6F2
